US07449460B2
A mixture of 260 mg (0.56 mmol) of 7-(3-chloropropoxy)-4-(2,4-dichloro-5-methoxyphenylamino)-6-methoxyquinoline-3-carbonitrile (Boschelli, Diane H.; Ye, Fei; Wang, Yanong D.; Dutia, Minu; Johnson, Steve L.; Wu, Biqi; Miller, Karen; Powell, Dennis W.; Yaczko, Deanna; Young, Mairead; Tischler, Mark; Arndt, Kim; Discafani, Carolyn; Etienne, Carlo; Gibbons, Jay; Grod, Janet; Lucas, Judy; Weber, Jennifer M.; Boschelli, Frank. J. Med. Chem. 2001, 44, 3965-3977) and 380 mg (2.24 mmol) of [1,4′]bipiperidinyl are heated in 3 mL of ethylene glycol dimethyl ether at 85° C. for sixteen hours to yield the crude product. Following removal of the solvent in vacuo, the crude product is purified by silica gel chromatography (eluting with 7:3 methylene chloride/methanol) to give 35 mg of 7-(3-[1,4′-bipiperidin]-1′-ylpropoxy)-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile as a white solid, mp 130-132° C.

reactant | 7-(3-chloropropoxy)-4-(2,4-dichloro-5-methoxyphenylamino)-6-methoxyquinoline-3-carbonitrile | 0.56 mmol, 260 mg | ClCCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C(=C1)OC)Cl)Cl)OC | C21H18Cl3N3O3
reactant | [1,4′]bipiperidinyl | 2.24 mmol, 380 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | ethylene glycol dimethyl ether | 3 mL | COCCOC | C4H10O2
product | 7-(3-[1,4′-bipiperidin]-1′-ylpropoxy)-4-[(2,4-dichloro-5-methoxyphenyl)amino]-6-methoxy-3-quinolinecarbonitrile | 35 mg | N1(CCCCC1)C1CCN(CC1)CCCOC1=C(C=C2C(=C(C=NC2=C1)C#N)NC1=C(C=C(C(=C1)OC)Cl)Cl)OC | C31H37Cl2N5O3
